US07776857B2
A sealed vial was charged with potassium hydroxide (0.124 g, 2.21 mmol) and DMSO (5 mL). 7-(4-nitrophenylthio)-1H-pyrrolo[3,2-b]pyridine (0.150 g, 0.553 mmol) was added and the reaction was stirred for 45 minutes. 1-Bromo-2-methoxyethane (0.104 ml, 1.11 mmol) was added, the system was flushed with argon, and the reaction was stirred at RT for 2 hours. LC-MS indicated starting material remaining, so 1 eq. bromoether was added and the reaction stirred for two more hours. The reaction was diluted with water and extracted four times with DCM and twice with ethyl acetate. The combined organic layers were dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (gradient elution 0-5% MeOH:DCM) to afford 1-(2-methoxyethyl)-7-(4-nitrophenylthio)-1H-pyrrolo[3,2-b]pyridine as an orange oil that solidified under high vacuum. MS: M+H+=330.1

reactant | potassium hydroxide | 2.21 mmol, 0.124 g | [OH-].[K+]
reactant | 7-(4-nitrophenylthio)-1H-pyrrolo[3,2-b]pyridine | 0.553 mmol, 0.150 g | [N+](=O)([O-])C1=CC=C(C=C1)SC1=C2C(=NC=C1)C=CN2 | C13H9N3O2S
reactant | 1-Bromo-2-methoxyethane | 1.11 mmol, 0.104 ml | BrCCOC | C3H7BrO
reactant | bromoether | 1 eq. | BrOBr | Br2O
solvent | water | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 1-(2-methoxyethyl)-7-(4-nitrophenylthio)-1H-pyrrolo[3,2-b]pyridine | COCCN1C=CC2=NC=CC(=C21)SC2=CC=C(C=C2)[N+](=O)[O-] | C16H15N3O3S
